Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][H:4].[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.13600444036
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2][C:12]([C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])([H:13])[H:14],5.653665423790001
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:11]([H:12])([H:13])=[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],1.28537567
[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-0.929406459939
[C:9]([H:10])[H:11].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-4.38113097209
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[O:1],8.00447003297
[C:4](#[C:5][O:6][H:7])[C:8]([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10],-2.25776439471
[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-10.64098194
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.85654265128
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.56792976845
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9],4.8448361787400005
[C:1]#[C:2][H:3].[C:4](=[O:5])[H:6]>>[C:1]=[C:2]([H:3])[C:4](=[O:5])[H:6],-3.29608404293
[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7],4.53681352064
[H:10].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.121417268459999
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],0.8829052235700001
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2]=[O:3],0.7342197359899999
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4],1.7568966584
[H:9].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],-1.93594702636
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[H:9],4.05694348269
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.9576090686900005
[H:1][C:2]1[O:3][C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11],3.6315269559
[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.018120450650001
[H:7].[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.72639595297
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],3.05032683987
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]#[C:5],5.70513042516
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3][H:4].[O:1]=[C:2][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],5.19029010989
[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.16128667134
[C:4]([H:5])[H:6].[H:1][O:2][C:3]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.827457134069999
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.403925047
